US05330985
(±) -N-[2-[[4- (Aminocarbonyl) pyrimidin-2-yl]amino]-ethyl]-2 -[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-l-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide
4.7 g. (11.16 mmol) of (±)-2-[[3-[4-(5-chloro-2-methoxyphenyl) piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide and 450 ml of methanol are introduced into a 1 l round-bottomed flask, a stream of gaseous hydrochloric acid is passed through for a few minutes and the mixture is heated at the reflux temperature of the methanol for 2 h.

reactant | (±)-2-[[3-[4-(5-chloro-2-methoxyphenyl) piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide | 11.16 mmol | ClC=1C=CC(=C(C1)N1CCN(CC1)CC(CNC1=NC=CC(=N1)C(=O)N)O)OC | C19H25ClN6O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 450 ml | CO | CH4O
product | (±) -N-[2-[[4- (Aminocarbonyl) pyrimidin-2-yl]amino]-ethyl]-2 -[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-l-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide | NC(=O)C1=NC(=NC=C1)NCCNC(=O)C1=NC(=NC=C1)NCC(CN1CCN(CC1)C1=C(C=CC(=C1)Cl)OC)O | C26H33ClN10O4
